US07625880B2
Bromotrimethylsilane (43 mL, 0.326 mol) was added dropwise to cyclopropylmethyl-phosphonic acid diisopropyl ester (18.00 g, 81.8 mmol) stirred in a reaction flask chilled to 5° C. The resulting solution was allowed to warm to ambient temperature, stirred for three hours, and then concentrated by rotary evaporation yielding crude cyclopropylmethyl-phosphonic acid bis(trimethylsilyl) ester which was used without further purification.

reactant | Bromotrimethylsilane | 0.326 mol, 43 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | cyclopropylmethyl-phosphonic acid diisopropyl ester | 81.8 mmol, 18.00 g | C(C)(C)OP(OC(C)C)(=O)CC1CC1 | C10H21O3P
product | cyclopropylmethyl-phosphonic acid bis(trimethylsilyl) ester | C[Si](C)(C)OP(O[Si](C)(C)C)(=O)CC1CC1 | C10H25O3PSi2
